US05607838
With 0.5 ml of a substrate solution containing 20 mM 4-nitrophenyl-α-D-glucopyranoside was mixed 1.0 ml of 0.1M phosphate buffer (pH 7.0), and the mixture was pre-heated at 37° C. for 5 minutes. Thereafter, 0.5 ml of an enzyme solution was added thereto and the reaction was conducted at 37° C. for 5 minutes, followed by determination of changes in absorbance per minute at 400 nm. The enzyme activity producing 1 μmol of 4-nitrophenol per minute under the above-mentioned conditions was taken as one unit.

reactant | 4-nitrophenyl-α-D-glucopyranoside | 20 mM | C1=CC(=CC=C1[N+](=O)[O-])O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C12H15NO8
reactant | phosphate | 0.1M, 1.0 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
product | 4-nitrophenol | 1 μmol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
